US06555541B1
b) (3,4-Difluoro-phenyl)-[(5-hydroxymethyl-2-methyl-phenylcarbamoyl)-methyl]-carbamic acid tert-buty ester
Prepared according to the method of Example 3b), from 5-(tert-butyl-dimethyl-silanyloxymethyl)-2-methyl-phenylamine (2.0 g) and [tert-butoxycarbonyl-(3,4-difluorophenyl)-amino]-acetic acid (2.30 g) to give the sub-title product (1.9 g) as a white solid.

reactant | 5-(tert-butyl-dimethyl-silanyloxymethyl)-2-methyl-phenylamine | 2.0 g | C(C)(C)(C)[SiH2]OC(C=1C=CC(=C(C1)N)C)(C)C | C14H25NOSi
reactant | [tert-butoxycarbonyl-(3,4-difluorophenyl)-amino]-acetic acid | 2.30 g | C(C)(C)(C)OC(=O)N(C1=CC(=C(C=C1)F)F)CC(=O)O | C13H15F2NO4
product | (3,4-Difluoro-phenyl)-[(5-hydroxymethyl-2-methyl-phenylcarbamoyl)-methyl]-carbamic acid tert-buty ester | 1.9 g | C(C)(C)(C)OC(N(CC(NC1=C(C=CC(=C1)CO)C)=O)C1=CC(=C(C=C1)F)F)=O | C21H24F2N2O4
